US08835682B2
Preparation of (3-acetylamino-phenylamino)-phenyl-acetic acid ethyl ester (I44)
N-(3-Aminophenyl)acetamide (371 mg, 2.47 mmol), ethyl 2-bromo-2-phenylacetate (0.29 mL, 1.64 mmol), and DIPEA (0.43 mL, 2.47 mmol) are dissolved in acetonitrile (5 mL). The reaction is heated under MW irradiation at 100° C. for 30 minutes. Conversion complete by UPLC/MS-UV. Acetonitrile is evaporated and the crude residue is purified by flash chromatography (DCM/EtOAc=8/2) to obtain intermediate I92 as a colorless oil (440 mg, 86% yield).

reactant | N-(3-Aminophenyl)acetamide | 2.47 mmol, 371 mg | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | ethyl 2-bromo-2-phenylacetate | 1.64 mmol, 0.29 mL | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 2.47 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (3-acetylamino-phenylamino)-phenyl-acetic acid ethyl ester | 440 mg, 86% yield | C(C)OC(C(C1=CC=CC=C1)NC1=CC(=CC=C1)NC(C)=O)=O | C18H20N2O3
